US06809199B2
Step A: tert-Butyl 5-isopropyl-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate
The title compound was prepared from tert-butyl 2,5-diazabicyclo[2.2.1]heptane-2-carboxylate and using acetone as described in EXAMPLE AAA1, Step A.

reactant | tert-butyl 2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | C12N(CC(NC1)C2)C(=O)OC(C)(C)C | C10H18N2O2
reactant | acetone | CC(=O)C | C3H6O
product | tert-Butyl 5-isopropyl-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | C(C)(C)N1C2CN(C(C1)C2)C(=O)OC(C)(C)C | C13H24N2O2
